US05532226
Ethyl morpholinoethyl 3-trifluoromethylbenzylphosphonate
3-Trifluoromethylbenzylphosphonochloridic acid ethyl ester (7.0 mmol)in 20 mL of CH2Cl2 is added slowly to a mixture of N-(2-hydroxyethyl)morpholine and triethylamine (7 mmol) in 20 mL of CH2Cl2 cooled in an ice bath. The resultant mixture is allowed to reach room temperature and is stirred for 5 hours. Water is added (100 mL) and the aqueous phase is extracted 3 times with CH2Cl2 (3×100 mL). The combined organic extracts are dried with anhydrous MgSO4, and evaporated to give the desired product.

reactant | 3-Trifluoromethylbenzylphosphonochloridic acid ethyl ester | 7.0 mmol | C(C)OP(=O)(Cl)CC1=CC(=CC=C1)C(F)(F)F | C10H11ClF3O2P
reactant | N-(2-hydroxyethyl)morpholine | OCCN1CCOCC1 | C6H13NO2
reactant | triethylamine | 7 mmol | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Ethyl morpholinoethyl 3-trifluoromethylbenzylphosphonate | FC(C=1C=C(CP(OCC)(OCCN2CCOCC2)=O)C=CC1)(F)F | C16H23F3NO4P
